US06713474B2
c) trans-5-(3-Chloro-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine
The title compound was prepared from 2-(3-chloro-4-phenoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine in a similar manner to that described for the preparation of trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 8.14 (s, 1H), 7.79(s, 1H), 7.65 (s, 1H), 7.38(m, 3H), 7.16(t, 2H), 7.04 (d, 2H), 6.24(bs, 2H), 4.55(m, 1H), 2.2-2.6(m, 9H), 2.16(s, 3H), 1.89(m, 6H), 1.48 (m, 2H); MS MH+517.3; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 15.75 min.

reactant | 2-(3-chloro-4-phenoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC=1C=C(C=CC1OC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C18H20BClO3
reactant | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
reactant | trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzonitrile | NC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H33N7O
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | trans-5-(3-Chloro-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | ClC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C29H33ClN6O
